US04486434
A mixture of 5-bromo-2-(4-aminobutyl)-3-methyl pyridine, (0.68 g) and 2-nitroamino-5-(4,6-dimethyl-3-pyridylmethyl)-4-pyrimidone (0.83 g) in anisole (25 ml) were refluxed for 4 hrs. Petroleum ether was added to precipitate the product which was then chromatographed on a silica gel column eluting with chloroform. The product was crystallised from ethyl acetate to give 2-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]-5-(4,6-dimethyl-3-pyridylmethyl)-4-pyrimidone (0.77 g) m.p. 110°-112° C.

reactant | 5-bromo-2-(4-aminobutyl)-3-methyl pyridine | 0.68 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 2-nitroamino-5-(4,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | 0.83 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1C)C | C12H13N5O3
solvent | anisole | 25 ml | C1(=CC=CC=C1)OC | C7H8O
product | 2-[4-(5-bromo-3-methylpyrid-2-yl)-butylamino]-5-(4,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | 0.77 g | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1C)C)C | C22H26BrN5O
